* D:\Google Drive\School\Caltech\EE91\ee91\Simulation\Receiver\Simulation.asc
R1 N002 NOISE 5k
R2 amp N002 700k
V2 V+ 0 4.8
V3 0 V- 4.8
XU1 0 N002 V+ V- amp AD823
R3 N001 amp 4k
R4 bp N003 100k
C1 N003 N001 200p
C2 bp N001 200p
XU2 0 N003 V+ V- bp AD823
B1 NOISE 0 V=( sin(2*pi*(time/2.5e-5)) + delay(0.5*sin(2*pi*(time/2.5e-5)), 0.5e-3) + delay(-sin(2*pi*(time/2.5e-5)), 1e-3) + delay((white(2e7*time) / 1), 1.5e-3) + delay(sin(2*pi*(time/2.5e-5)), 2.0e-3) + delay(-sin(2*pi*(time/2.5e-5)), 2.5e-3) + delay(0.2*sin(2*pi*(time/1e-3)), 3e-3) + delay(sin(2*pi*(time/2.5e-5)), 3.5e-3) + delay(-sin(2*pi*(time/2.5e-5)), 4.0e-3) + delay(0.2*sin(2*pi*(time/1e-4)), 4.5e-3) + delay(sin(2*pi*(time/2.5e-5)), 5.0e-3) + delay(-sin(2*pi*(time/2.5e-5)), 5.5e-3) + delay(0.2*sin(2*pi*(time/1e-5)), 6.0e-3) + delay(sin(2*pi*(time/2.5e-5)), 6.5e-3) + delay(-sin(2*pi*(time/2.5e-5)), 7.0e-3) )/500
D1 bp out 1N4148
C3 out 0 .1µ
R5 out 0 50k
.model D D
.lib C:\Users\Evan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .01
.lib ADI.lib
.backanno
.end
