* D:\Google Drive\School\Caltech\EE91\ee91\Simulation\Receiver\Simulation.asc
R1 N002 US 5k
R2 amp N002 700k
V2 V+ 0 4.8
V3 0 V- 4.8
XU1 0 N002 V+ V- amp AD823
R3 N001 amp 4k
R4 bp N003 100k
C1 N003 N001 200p
C2 bp N001 200p
XU2 0 N003 V+ V- bp AD823
B1 US 0 V=( sin(2*pi*(time/2.5e-5)) + 0.5*sin(2*pi*(time/2.5e-5)) -sin(2*pi*(time/2.5e-5)) + (white(2e7*time) / 1) + sin(2*pi*(time/2.5e-5)) -sin(2*pi*(time/2.5e-5)) + 0.1*sin(2*pi*(time/1e-3)) + sin(2*pi*(time/2.5e-5)) -sin(2*pi*(time/2.5e-5)) + 0.1*sin(2*pi*(time/1e-4)) + sin(2*pi*(time/2.5e-5)) - sin(2*pi*(time/2.5e-5)) + 0.1*sin(2*pi*(time/1e-5)) + delay(sin(2*pi*(time/2.5e-5)), 0.5e-3) + delay(-sin(2*pi*(time/2.5e-5)), 1.0e-3) )/500
D1 bp out 1N4148
C3 out 0 .1µ
R5 out 0 10k
B2 Vn+ 0 V=(0.05*sin(2*pi*(time/1e-6)) + 0.05*sin(2*pi*(time/2.5e-5)) + 0.05*sin(2*pi*(time/1e-3))) + 4.8
B3 0 Vn- V=(0.05*sin(2*pi*(time/1e-6)) + 0.05*sin(2*pi*(time/2.5e-5)) + 0.05*sin(2*pi*(time/1e-3))) + 4.8
V1 N004 0 SINE() AC 1 0
.model D D
.lib C:\Users\Evan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.001
.lib ADI.lib
.backanno
.end
